US04956359
3-(3-Methylphenoxy)-1-azetidinecarboxamide
A stirred solution of 3.92 g (0.01 mole) of crude (57.59%) 3-(3-methylphenoxy)-1-azetidinecarbonyl chloride in 15 ml of tetrahydrofuran was treated with 1.9 g (2 ml) (0.03 mole) of 57% ammonium hydroxide. After stirring for 18 hr, the reaction mixture was diluted with 200 ml of water. The oil which separated solidified on standing, (3.2 g), and was recrystallized from isopropanol, yielding 1 g (50%) of fine white crystals, m.p. 167°-168° C.

reactant | 3-(3-methylphenoxy)-1-azetidinecarbonyl chloride | CC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1 | C11H12ClNO2
reactant | ammonium hydroxide | 0.03 mole, 2 ml, 1.9 g | [OH-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-(3-Methylphenoxy)-1-azetidinecarboxamide | 1 g, 50% | CC=1C=C(OC2CN(C2)C(=O)N)C=CC1 | C11H14N2O2
